US07557213B2
Step 1: Synthesis of 2-(3,4-dimethyl-benzoyl)-3-phenylamino-but-2-enoic acid methyl ester
10.6 g (51.4 mmol) of 3-(3,4-dimethyl-phenyl)-3-oxo-propionic acid methyl ester was heated with 12.4 g (103 mmol) of trimethyl orthoacetate and 5.51 g (54.0 mmol) of acetic anhydride at 115° C. for 3 days. The mixture was evaporated and combined with 4.69 mL (51.4 mmol) of aniline. Yield: 8.60 g of a yellow solid (after flash chromatography contains inseparable 3-(3,4-dimethyl-phenyl)-3-oxo-propionic acid methyl ester): LC-MSD, m/z for C20H21NO3 [M+H]+=324.2; HPLC retention time: 2.1 min.

reactant | 3-(3,4-dimethyl-phenyl)-3-oxo-propionic acid methyl ester | 51.4 mmol, 10.6 g | COC(CC(=O)C1=CC(=C(C=C1)C)C)=O | C12H14O3
reactant | trimethyl orthoacetate | 103 mmol, 12.4 g | C(C)(OC)(OC)OC | C5H12O3
reactant | acetic anhydride | 54.0 mmol, 5.51 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | aniline | 51.4 mmol, 4.69 mL | NC1=CC=CC=C1 | C6H7N
product | 2-(3,4-dimethyl-benzoyl)-3-phenylamino-but-2-enoic acid methyl ester | COC(C(=C(C)NC1=CC=CC=C1)C(C1=CC(=C(C=C1)C)C)=O)=O | C20H21NO3
